US06503907B2
In analogy to example 9.1, Allyl-methyl-[5-(3-methyl-1H-indol-5-yl)-pent-4-ynyl]-amine and 1-bromo-4-fluorbenzene were converted to yield Allyl-{5-[1-(4-bromo-phenyl)-3-methyl-1H-indol-5-yl]-pent-4-ynyl}-methyl-amine as light yellow viscous oil, MS: 421 (MH+, 1Br).

reactant | Allyl-methyl-[5-(3-methyl-1H-indol-5-yl)-pent-4-ynyl]-amine | C(C=C)N(CCCC#CC=1C=C2C(=CNC2=CC1)C)C | C18H22N2
reactant | 1-bromo-4-fluorbenzene | BrC1=CC=C(C=C1)F | C6H4BrF
product | Allyl-{5-[1-(4-bromo-phenyl)-3-methyl-1H-indol-5-yl]-pent-4-ynyl}-methyl-amine | C(C=C)N(C)CCCC#CC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)Br)C | C24H25BrN2
